US07851473B2
(2) N-(2-Oxo-2,3-dihydro-1H-indol-5-yl)-4-(4-phenyl-1,3-thiazol-2-yl)piperazine-1-carboxamide
A solution of 2,2,2-trichloroethyl (2-oxo-2,3-dihydro-1H-indol-5-yl)carbamate (200 mg, 0.618 mmol), 1-(4-phenyl-1,3-thiazol-2-yl)piperazine (152 mg, 0.618 mmol), diisopropylethylamine (0.108 ml, 0.618 mmol) and dimethylsulfoxide (4 ml) was stirred at 70° C. for 12 hours, the reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate) to obtain the desired product as a solid. This was recrystallized from a mixed solvent of ethyl acetate and hexane to obtain the desired product (18.0 mg, 6.9%) as a solid.

reactant | 2,2,2-trichloroethyl (2-oxo-2,3-dihydro-1H-indol-5-yl)carbamate | 0.618 mmol, 200 mg | O=C1NC2=CC=C(C=C2C1)NC(OCC(Cl)(Cl)Cl)=O | C11H9Cl3N2O3
reactant | 1-(4-phenyl-1,3-thiazol-2-yl)piperazine | 0.618 mmol, 152 mg | C1(=CC=CC=C1)C=1N=C(SC1)N1CCNCC1 | C13H15N3S
reactant | diisopropylethylamine | 0.618 mmol, 0.108 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethylsulfoxide | 4 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | N-(2-Oxo-2,3-dihydro-1H-indol-5-yl)-4-(4-phenyl-1,3-thiazol-2-yl)piperazine-1-carboxamide | O=C1NC2=CC=C(C=C2C1)NC(=O)N1CCN(CC1)C=1SC=C(N1)C1=CC=CC=C1 | C22H21N5O2S
